US05344843
A mixture of alpha-oxo-4-[4-(3-pyridinyl)butoxy]benzeneacetic acid methyl ester (4:1) molar hydrate (1.1 g) in hot methanol (10 mL) was treated with 1N sodium hydroxide (5 mL) and diluted with water. The organic solvent was removed under vacuum and the residue in water was washed with diethyl ether. The aqueous layer was concentrated to about 25 mL and chilled in ice. Cold 2N hydrochloric acid (2.5 mL) was added dropwise and the product was allowed to crystallize and was filtered and air dried. Recrystallization from acetone provided 0.64 g of alpha-oxo-4-[4-(3-pyridinyl)butoxy]benzeneacetic acid as a colorless solid, mp 163°-165° C.

reactant | alpha-oxo-4-[4-(3-pyridinyl)butoxy]benzeneacetic acid methyl ester | COC(C(C1=CC=C(C=C1)OCCCCC=1C=NC=CC1)=O)=O | C18H19NO4
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | alpha-oxo-4-[4-(3-pyridinyl)butoxy]benzeneacetic acid | 0.64 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCCCC=1C=NC=CC1 | C17H17NO4
